US09446130B2
To a solution of (S)-4-(3-(3-cyclopropyl-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyridin-8-yl)-8-((2,4-dimethoxybenzyl)amino)imidazo[1,5-a]pyrazin-1-yl)benzoic acid (130 mg, 0.23 mmol) in DMF (2 mL) was added NH4Cl (37 mg, 0.69 mmol), TEA (93 mg, 0.92 mmol) and HATU (175 mg, 0.46 mmol). The mixture was stirred at RT overnight. After the reaction was completed, the solvent was evaporated and the residue was purified by Pre-TLC to give (S)-4-(3-(3-cyclopropyl-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyridin-8-yl)-8-((2,4-dimethoxybenzyl)amino)imidazo[1,5-a]pyrazin-1-yl)benzamide (60 mg, yield 46%).

reactant | (S)-4-(3-(3-cyclopropyl-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyridin-8-yl)-8-((2,4-dimethoxybenzyl)amino)imidazo[1,5-a]pyrazin-1-yl)benzoic acid | 0.23 mmol, 130 mg | C1(CC1)C1=NN=C2N1CCC[C@H]2C2=NC(=C1N2C=CN=C1NCC1=C(C=C(C=C1)OC)OC)C1=CC=C(C(=O)O)C=C1 | C31H31N7O4
reactant | NH4Cl | 0.69 mmol, 37 mg | [NH4+].[Cl-]
reactant | HATU | 0.46 mmol, 175 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (S)-4-(3-(3-cyclopropyl-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyridin-8-yl)-8-((2,4-dimethoxybenzyl)amino)imidazo[1,5-a]pyrazin-1-yl)benzamide | 60 mg, yield 46% | C1(CC1)C1=NN=C2N1CCC[C@H]2C2=NC(=C1N2C=CN=C1NCC1=C(C=C(C=C1)OC)OC)C1=CC=C(C(=O)N)C=C1 | C31H32N8O3
